US04469908
Isopropylbenzene could not be selectively alkylated with methanol to form isopropyltoluene. At 200° C. disproportionation of the isopropylbenzene was the predominate reaction. The product was 41% diisopropylbenzene, 24% benzene and 20% isopropyltoluene. Part of the benzene was alkylated as shown by the presence of 6% toluene.

reactant | Isopropylbenzene | C(C)(C)C1=CC=CC=C1 | C9H12
reactant | methanol | CO | CH4O
product | isopropyltoluene | C(C)(C)C1=C(C=CC=C1)C | C10H14
